US04806562
To a solution of methyl [3-(2-dioxolanyl)-thiophene-2-ylthio]acetate (23.36 g) in acetone (100 mL) was added p-toluenesulfonic acid (0.25 g) and the reaction mixture was stirred at room temperature for 1 hour. A saturated aqueous solution of sodium bicarbonate (4 mL) was added with stirring followed by the addition of water (50 mL). After stirring for 10 minutes, the acetone was evaporated in vacuo to leave a gum and water. The gum was dissolved in ether (500 mL) and extracted with water (4×50 mL), dried (MgSO4), filtered and the solvent was evaporated in vacuo to leave 19.77 g of oily methyl (3-formylthiophene-2-ylthi-o)acetate which was used in the next step without purification.

reactant | methyl [3-(2-dioxolanyl)-thiophene-2-ylthio]acetate | 23.36 g | O1C(OCC1)C1=C(SC=C1)SCC(=O)OC | C10H12O4S2
reactant | p-toluenesulfonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 4 mL | C([O-])(O)=O.[Na+]
reactant | water | 50 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ether | 500 mL | CCOCC | C4H10O
product | methyl (3-formylthiophene-2-ylthi-o)acetate | 19.77 g | C(=O)C1=C(SC=C1)SCC(=O)OC | C8H8O3S2
